US09233968B1
1-(3-chloro-4-fluorophenyl)-3-(4-{[2-({[(3-chloro-4-fluorophenyl)amino]carbonyl}amino)imidazo[1,2-b]pyridazin-6-yl]ethynyl}phenyl)urea
The compound of Example 15 was by preparing 6-[(4-aminophenyl)ethynyl]imidazo[1,2-b]pyridazin-2-amine as in Example 20, followed by a procedure similar to Example 3 using 2-chloro-1-fluoro-4-isocyanatobenzene as the isocyanate (see also Schemes 1, 2, and 9).

reactant | 6-[(4-aminophenyl)ethynyl]imidazo[1,2-b]pyridazin-2-amine | NC1=CC=C(C=C1)C#CC=1C=CC=2N(N1)C=C(N2)N | C14H11N5
reactant | 2-chloro-1-fluoro-4-isocyanatobenzene | ClC1=C(C=CC(=C1)N=C=O)F | C7H3ClFNO
reactant | isocyanate | [N-]=C=O
product | 1-(3-chloro-4-fluorophenyl)-3-(4-{[2-({[(3-chloro-4-fluorophenyl)amino]carbonyl}amino)imidazo[1,2-b]pyridazin-6-yl]ethynyl}phenyl)urea | ClC=1C=C(C=CC1F)NC(=O)NC1=CC=C(C=C1)C#CC=1C=CC=2N(N1)C=C(N2)NC(=O)NC2=CC(=C(C=C2)F)Cl | C28H17Cl2F2N7O2
